US08492401B2
Pyrrolidine (0.5 ml) was added to a solution of tert-butyl 5-(bromomethyl)-2-phenylthiazole-4-carboxylate (1.029 g, 2.90 mmol) and diisopropylethylamine (DIPEA) (1.5 ml) in CH2Cl2 (10 ml). The mixture was stirred at rt for 30 min, concentrated in vacuo and purified by flash chromatography to give tert-butyl 2-phenyl-5-(pyrrolidin-1-ylmethyl)thiazole-4-carboxylate as a yellow solid (920 mg, 98% yield).

reactant | Pyrrolidine | 0.5 ml | N1CCCC1 | C4H9N
reactant | tert-butyl 5-(bromomethyl)-2-phenylthiazole-4-carboxylate | 2.90 mmol, 1.029 g | BrCC1=C(N=C(S1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C15H16BrNO2S
reactant | diisopropylethylamine | 1.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-phenyl-5-(pyrrolidin-1-ylmethyl)thiazole-4-carboxylate | 920 mg, 98% yield | C1(=CC=CC=C1)C=1SC(=C(N1)C(=O)OC(C)(C)C)CN1CCCC1 | C19H24N2O2S
